US05709820
To 140 g (333 mmol) of trans-4-(trans-4-(trans-4-(2-(1,3-dioxane-2-yl)ethyl)cyclohexyl)cyclohexyl)cyclohexane carboxylic acid methyl ester dissolved in 1.5 liters of toluene were added 153 g (3330 mmol) of formic acid and the mixture was heated under reflux for one hour. The reaction solution was washed three times with 500 ml of an aqueous saturated sodium carbonate and then with 750 ml of water, and dried over anhydorus magnesium sulfate. Distilling off the solvent under reduced pressure gave 90.0 g of crude trans-4-(trans-4-(trans-4-(2-formylethyl)cyclohexyl)-cyclohexyl)cyclohexane carboxylic acid methyl ester.

reactant | trans-4-(trans-4-(trans-4-(2-(1,3-dioxane-2-yl)ethyl)cyclohexyl)cyclohexyl)cyclohexane carboxylic acid methyl ester | 333 mmol, 140 g | COC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1OCCCO1 | C26H44O4
reactant | formic acid | 3330 mmol, 153 g | C(=O)O | CH2O2
solvent | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
product | trans-4-(trans-4-(trans-4-(2-formylethyl)cyclohexyl)-cyclohexyl)cyclohexane carboxylic acid methyl ester | 90.0 g | COC(=O)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=O | C23H38O3
